US06858627B2
Synthesis of [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine
[6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethylsulfanyl]acetic acid methyl ester 100 mg of 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline, 80 mg of potassium carbonate, and 52 μL of methyl thioglycolate reacted to give 4 mg of the title compound as an oil.

reactant | [6-(2-Methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethylsulfanyl]acetic acid methyl ester | 100 mg | COC(CSCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C)=O | C22H25NO3S
reactant | 4-bromomethyl-6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinoline | BrCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)OC)(C)C | C19H20BrNO
reactant | potassium carbonate | 80 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl thioglycolate | 52 μL | C(CS)(=O)OC | C3H6O2S
product | [6-(2-methoxyphenyl)-2,2-dimethyl-1,2-dihydroquinolin-4-ylmethyl]phenylamine | 4 mg | COC1=C(C=CC=C1)C=1C=C2C(=CC(NC2=CC1)(C)C)CNC1=CC=CC=C1 | C25H26N2O
